US08455703B2
Synthesis of 1-methyl-1-octylpiperidinium tetracyanoborate as Illustrated in FIG. 12
Analogously to Example A, 58 g of potassium tetracyanoborate are added to 100 g of 1-methyl-1-octylpiperidinium bromide, and the mixture is subjected to corresponding work-up, giving a clear, yellowish, viscous liquid.

reactant | potassium tetracyanoborate | 58 g | C(#N)[B-](C#N)(C#N)C#N.[K+]
reactant | 1-methyl-1-octylpiperidinium bromide | 100 g | [Br-].C[N+]1(CCCCC1)CCCCCCCC
product | 1-methyl-1-octylpiperidinium tetracyanoborate | C(#N)[B-](C#N)(C#N)C#N.C[N+]1(CCCCC1)CCCCCCCC | InChI=1S/C14H30N.C4BN4/c1-3-4-5-6-7-9-12-15(2)13-10-8-11-14-15;6-1-5(2-7,3-8)4-9/h3-14H2,1-2H3;/q+1;-1
